US06869954B2
1) Preparation of 2-cyclopentylmethyl-6-(3-fluoro-4-methoxyphenyl)-4-methoxycarbonyl-2H-pyridazin-3-one
Following the procedure of Example 1(6), 6-(3-fluoro-4-methoxyphenyl)-4-methoxycarbonyl-2H-pyridazin-3-one and cyclopentylmethyl bromide {J. Org. Chem., 36, 3103 (1971)} were reacted to yield the title compound as yellow needles (yield: 72.0%).

reactant | 6-(3-fluoro-4-methoxyphenyl)-4-methoxycarbonyl-2H-pyridazin-3-one | FC=1C=C(C=CC1OC)C=1C=C(C(NN1)=O)C(=O)OC | C13H11FN2O4
reactant | cyclopentylmethyl bromide | C1(CCCC1)CBr | C6H11Br
product | 2-cyclopentylmethyl-6-(3-fluoro-4-methoxyphenyl)-4-methoxycarbonyl-2H-pyridazin-3-one | yield: 72.0% | C1(CCCC1)CN1N=C(C=C(C1=O)C(=O)OC)C1=CC(=C(C=C1)OC)F | C19H21FN2O4
